US05028606
To a stirred and cooled (0° C.) solution of 9.1 parts of 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine in 80 parts of acetic acid and 20 parts of water were added portionwise 5.8 parts of ethyl 4-methyl-2-oxopentanoate. Upon completion, stirring was continued for 4 hours at room temperature. The reaction mixture was poured into 100 parts of water and the whole was neutralized with a sodium hydroxide solution 3N. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of dichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 2-propanone and 1,1'-oxybisethane. The product was filtered off (the filtrate was set aside) and dried, yielding 1.5 parts (12.6%) of 6-[(3-chlorophenyl) (1H-imidazol-1-yl)methyl]-3-(2-methylpropyl)-2(1H)-quinoxalinone; mp. 209.7° C. (comp. 178)

reactant | 4-[(3-chlorophenyl)(1H-imidazol-1-yl)methyl]-1,2-benzenediamine | ClC=1C=C(C=CC1)C(C=1C=C(C(=CC1)N)N)N1C=NC=C1 | C16H15ClN4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ethyl 4-methyl-2-oxopentanoate | CC(CC(C(=O)OCC)=O)C | C8H14O3
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | O | H2O
product | 6-[(3-chlorophenyl) (1H-imidazol-1-yl)methyl]-3-(2-methylpropyl)-2(1H)-quinoxalinone | 12.6% | ClC=1C=C(C=CC1)C(C=1C=C2N=C(C(NC2=CC1)=O)CC(C)C)N1C=NC=C1 | C22H21ClN4O
